US07262212B2
2-Chloro-4-nitro-1H-imidazole (6.8 g, 43 mmol), 2-(3-acetoxypropyl)-2-methyloxirane (5.8 g, 39.3 mmol) and sodium acetate (3.9 g, 47.6 mmol) were suspended in ethanol (60 ml) followed by stirring under reflux overnight. The reaction mixture was allowed to return to room temperature and concentrated under reduced pressure. Water was added to the residue, and the resulting mixture was extracted with methylene chloride twice. The organic phases were combined, washed with a saturated aqueous sodium bicarbonate solution and a saturated saline solution in this order, dried over sodium sulfate and then filtered. The filtrate was concentrated under reduced pressure to afford 2-chloro-l-(5-acetoxy-2-hydroxy-2-methylpentyl)-4-nitroimidazole (9.5 g, yield 79%) as a light brown oil.

reactant | 2-Chloro-4-nitro-1H-imidazole | 43 mmol, 6.8 g | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | 2-(3-acetoxypropyl)-2-methyloxirane | 39.3 mmol, 5.8 g | C(C)(=O)OCCCC1(OC1)C | C8H14O3
reactant | sodium acetate | 47.6 mmol, 3.9 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-chloro-l-(5-acetoxy-2-hydroxy-2-methylpentyl)-4-nitroimidazole | 9.5 g, yield 79% | ClC=1N(C=C(N1)[N+](=O)[O-])CC(CCCOC(C)=O)(C)O | C11H16ClN3O5
